US04650800
5-Chloro-1-(4-methylthiazol-5-ylcarbonylmethyl)pyrimidin-2-one
A suspension of 5-chloropyrimidin-2-one (392 mg) and 5-bromoacetyl-4-methylthiazole (660 mg) in dry dichloromethane was treated with triethylamine (0.42 ml) and the resulting pale yellow solution was stirred at room temperature. After 1.25 h a precipitate had formed and the mixture was cooled in an ice-bath. The solid was collected, washed with cold dichloromethane and dried (346 mg). A second crop was obtained by concentration of the mother liquors (255 mg). The combined solids were recrystallised from acetone and then dichloromethane to give white crystals, the title pyrimidinone (186 mg) m.p. 212°-215° C. λmax (EtOH) 250.5 nm (E1cm1% 403), 266.5 nm (E1cm1% 401), 334 nm (E1cm1% 65). High performance liquid chromatography (reverse phase column, acetonitrilewater, 1:3) showed only one major component. N.M.R. (DMSO d6): 0.68 (2'-H), 1.28, 1.54 (two doublets, J 4 Hz) (4,6-H), 4.69 (--CH2 --), 7.21 τ (4' -CH3).

reactant | 5-chloropyrimidin-2-one | 392 mg | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | 5-bromoacetyl-4-methylthiazole | 660 mg | BrCC(=O)C1=C(N=CS1)C | C6H6BrNOS
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | pyrimidinone | 186 mg | N1C(N=CC=C1)=O | C4H4N2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | EtOH | CCO | C2H6O
product | 5-Chloro-1-(4-methylthiazol-5-ylcarbonylmethyl)pyrimidin-2-one | ClC=1C=NC(N(C1)CC(=O)C1=C(N=CS1)C)=O | C10H8ClN3O2S
